US04485114
A mixture of 13.0 g of m-trifluoromethylphenyl bromide, 8.68 g of p-acetylaminoacetophenone, 14.5 g of potassium carbonate, 0.45 g of copper powder and 40 ml of decahydronaphthalene was stirred at reflux on an oil bath at 200° C., under argon for 64 hours. The mixture was then cooled, stirred with 200 ml of acetone, filtered and the filtrate evaporated to a semi-solid. Evaporative distillation gave a semi-solid which was dissolved in 150 ml of ethanol and 150 ml of concentrated hydrochloric acid and refluxed under argon for 30 minutes. The mixture was cooled, partially evaporated and partitioned between 50% saturated brine and ethyl acetate. The ethyl acetate layer was washed with water and brine, dried and evaporated to a semi-solid. This semi-solid was purified by chromatography, giving 4'-[3-(trifluoromethyl)phenylamino]acetophenone which was then converted to the desired product by the procedure of Example 9, giving the product as a light amber solid, m.p. 180°-195° C. (dec.).

reactant | m-trifluoromethylphenyl bromide | 13.0 g | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | p-acetylaminoacetophenone | 8.68 g | C(C)(=O)NC1=CC=C(C=C1)C(C)=O | C10H11NO2
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | decahydronaphthalene | 40 ml | C1CCCC2CCCCC12 | C10H18
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | copper | 0.45 g | [Cu] | Cu
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4'-[3-(trifluoromethyl)phenylamino]acetophenone | FC(C=1C=C(C=CC1)NC1=CC=C(C=C1)C(C)=O)(F)F | C15H12F3NO
